// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: TRANSMISSION_GATE
// View name: schematic
subckt TRANSMISSION_GATE A B C VDD VSS
    M0 (A net8 B VDD) pmos4
    M1 (A C B VSS) nmos4
    I0 (C net8 VDD VSS) INVERTER
ends TRANSMISSION_GATE
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 1066
// View name: schematic
M11 (net23 IB2 IIN2 VDD) pmos4
M10 (IB2 IB2 VSS VDD) pmos4
M9 (net40 IB2 IIN1 VDD) pmos4
M8 (VOUT2 IB1 net24 VDD) pmos4
M7 (VOUT1 IB1 net41 VDD) pmos4
M3 (net49 net49 VDD VDD) pmos4
M2 (net45 net45 VDD VDD) pmos4
M1 (net24 net49 VDD VDD) pmos4
M0 (net41 net45 VDD VDD) pmos4
M17 (net49 net38 IB3 VSS) nmos4
M16 (net45 net29 IB3 VSS) nmos4
M15 (net23 IB3 VSS VSS) nmos4
M14 (net40 IB3 VSS VSS) nmos4
M13 (VOUT1 IB2 net40 VSS) nmos4
M12 (VOUT2 IB2 net23 VSS) nmos4
M6 (net24 IB1 IIN2 VSS) nmos4
M5 (IB1 IB1 VSS VSS) nmos4
M4 (net41 IB1 IIN1 VSS) nmos4
I3 (VOUT1 net38 VCLK2 VDD VSS) TRANSMISSION_GATE
I2 (VOUT2 net29 VCLK1 VDD VSS) TRANSMISSION_GATE
C1 (net38 VSS) capacitor
C0 (net29 VSS) capacitor